2115-11-03 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   None.
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2115-11-2**] 03:00 PM
   Guiac negative. No CP, palpitations, SOB, lightheadedness. Feels well.
   Keen to get out of bed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-11-3**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 64 (61 - 72) bpm
   BP: 149/60(83) {99/44(69) - 165/96(100)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.9 kg (admission): 51.9 kg
             Total In:
                                                                  2,093 mL
                                                                     84 mL
   PO:
             TF:
   IVF:
                                                                     93 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    825 mL
   Urine:
                                                                  1,075 mL
                                                                    825 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,018 mL
                                                                   -741 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///30/
   Physical Examination
   GEN; NAD, resting comfortably in bed.
   CV: RRR, no m/r/g
   PULM; CTAB
   ABD: soft, nt, nd, colostomy bag in place
   EXTR: no  edema
   NEURO: alert & oriented
   Labs / Radiology
   171 K/uL
   11.0 g/dL
   94 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   16 mg/dL
   104 mEq/L
   140 mEq/L
   33.1 %
   5.1 K/uL
        [image002.jpg]
                            [**2115-11-3**]  04:11 AM
   WBC
   5.1
   Hct
   33.1
   Plt
   171
   Cr
   0.8
   TropT
   <0.01
   Glucose
   94
   Other labs: PT / PTT / INR:13.4/93.1/1.1, CK / CKMB /
   Troponin-T:41//<0.01, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: This is a [**Age over 90 **] year old female with a history of
   hypertension, diastolic CHF who presents with new onset tachyarrhythmia
   with long conversion pauses.
   .
   # Tachycardia: Unclear if this is a.fib/flutter with abberancy vs.
   another SVT. Long conversion pauses concerning tachy-brady syndrome.
   Currently hemodynamically stable. No signs of ischemic cause, likely
   age related conduction degradation in setting of dCHF. Went into atrial
   bigeminy, and now in NSR overnight.
   - if becomes fast again and unstable, will float temporary pacer wire
   to manage pauses/bradycardia
   - pacer pads in place
   - rate control with 25mg PO metoprolol TID
   - will likely need permanent pacemaker; likely tomorrow; patient and
   family aware
   - heparin gtt for prophylaxis, will bridge to coumadin after pacemaker
   .
   # PUMP: History of very well controlled dCHF on no diuretics. No signs
   of decompensation at this time.
   - BB as above
   - Restart home lisinopril 10mg daily
   - Might restart amlodipine later in the day if blood pressure
   tolerates/requires
   .
   # Coronaries: No signs of ischemia currently. CEZ neg. No ischemic
   changes on EKG.
   -Con't ASA 81, simvastatin, metoprolol
   -Restart home lisinopril 10mg daily
   .
   # HTN:
   - Restart home lisinopril
   - Hold amlodipine for now
   .
   # Depression: Continue lexapro
   .
   # Osteoarthritis: PRN tylenol, continue calcium carbonate, MVI
   .
   # Insomnia: Cont PRN alprazolam
   .
   FEN: Heart healthy diet; NPO after midnight for tomorrow
   potential/likely pacemaker procedure
   .
   ACCESS: PIV's, R IJ cordis
   .
   PROPHYLAXIS:
   -DVT ppx with Heparin gtt
 d/c heparin gtt at 4AM tomorrow in
   preparation for pacer placement
   -Pain management with Tylenol
   -Bowel regimen
   .
   CODE:  full
   .
   COMM: HCP [**Name (NI) 251**] [**Name (NI) 10805**] (daughter)[**Telephone/Fax (1) 10806**]
   .
   DISPO: Call-out to floor with telemetry
   ICU Care
   Glycemic Control:  monitor blood sugars
   Lines:
   Cordis/Introducer - [**2115-11-2**] 03:00 PM
   20 Gauge - [**2115-11-2**] 03:00 PM
   18 Gauge - [**2115-11-2**] 03:00 PM

2115-11-04 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: syncope, tachy-brady syndrome
   24 Hour Events:
 EKG - At [**2115-11-4**] 02:03 AM
   - Likely pacer placement today
   -Couldn't call out bc of cortis
   -Lisinopril 10mg daily initiated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-11-4**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 73 (65 - 96) bpm
   BP: 162/87(102) {101/44(69) - 172/106(111)} mmHg
   RR: 19 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 51.9 kg
             Total In:
                                                                  1,471 mL
                                                                     60 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                    271 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                    500 mL
   Urine:
                                                                  2,275 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -804 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Exam
   GEN; NAD, resting comfortably in bed.
   CV: RRR, no m/r/g
   PULM; CTAB
   ABD: soft, nt, nd, colostomy bag in place
   EXTR: no edema
   NEURO: alert & oriented
   Labs / Radiology
   171 K/uL
   11.0 g/dL
   94 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.0 mEq/L
   16 mg/dL
   104 mEq/L
   140 mEq/L
   33.1 %
   5.1 K/uL
                            [**2115-11-3**]  04:11 AM
   WBC
   5.1
   Hct
   33.1
   Plt
   171
   Cr
   0.8
   TropT
   <0.01
   Glucose
   94
   Other labs: PT / PTT / INR:13.4/98.4/1.1, CK / CKMB /
   Troponin-T:41//<0.01, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: This is a [**Age over 90 **] year old female with a history of
   hypertension, diastolic CHF who presents with new onset tachyarrhythmia
   with long conversion pauses.
   .
   # Tachycardia: Long conversion pauses concerning tachy-brady syndrome.
   Currently hemodynamically stable. No signs of ischemic cause, likely
   age related conduction degradation in setting of dCHF. Went into atrial
   bigeminy, and now in NSR overnight with an episode of SVT earlier this
   morning.
   - if becomes fast again and unstable, will float temporary pacer wire
   to manage pauses/bradycardia
   - pacer pads in place, permanent pacemaker placement today.
   - rate control with 25mg PO metoprolol TID, will uptitrate after EP
   procedure.
   - heparin gtt for prophylaxis, will bridge to coumadin after pacemaker
   .
   # PUMP: History of very well controlled dCHF on no diuretics. No signs
   of decompensation at this time.
   - BB as above
   - Restart home lisinopril 10mg daily
   - Might restart amlodipine later in the day if blood pressure
   tolerates/requires, will f/u EP recs
   .
   # Coronaries: No signs of ischemia currently. CEZ neg. No ischemic
   changes on EKG.
   -Con't ASA 81, simvastatin, metoprolol
   -Restart home lisinopril 10mg daily
   .
   # HTN:
   - Restart home lisinopril
   - Hold amlodipine for now
   .
   # Depression: Continue lexapro
   .
   # Osteoarthritis: PRN tylenol, continue calcium carbonate, MVI
   .
   # Insomnia: Cont PRN alprazolam
   .
   FEN: Heart healthy diet; NPO after midnight for tomorrow
   potential/likely pacemaker procedure
   .
   ACCESS: PIV's, R IJ cordis
   .
   PROPHYLAXIS:
   -DVT ppx with Heparin gtt
 d/c heparin gtt at 4AM tomorrow in
   preparation for pacer placement
   -Pain management with Tylenol
   -Bowel regimen
   .
   CODE:  full
   .
   COMM:
   .
   DISPO: Call-out to floor with telemetry
   ICU Care
   Nutrition:  Heart healthy
   Glycemic Control:  n/a
   Lines:
   Cordis/Introducer - [**2115-11-2**] 03:00 PM
   20 Gauge - [**2115-11-2**] 03:00 PM
   18 Gauge - [**2115-11-2**] 03:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: n/a
   VAP:
   Comments:
   Communication:  Comments: with pt and daughter,  [**Name (NI) 251**] [**Name (NI) 10805**]
   (daughter)[**Telephone/Fax (1) 10806**]
   Code status:  full
   Disposition: pt can likely go to floor after procedure